US07754737B2
To a solution of (1R,2R)-2-(t-butoxycarbonylamino)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-ol (0.76 g, 1.76 mmol) in 1,2-dichloroethane (4 mL) was added Dess-Martin periodinane (1.05 g, 2.29 mmol), and the resulting mixture was heated in a CEM microwave reactor at 70° C. for 3 min. Completion of reaction was confirmed by TLC. The mixture was diluted with ether (20 mL), washed with 1 N aq NaOH (2×10 mL) and brine, dried over Na2SO4, and concentrated to give crude (R)-2-(t-butoxycarbonylamino)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-one (0.74 g), which was used without purification.

reactant | (1R,2R)-2-(t-butoxycarbonylamino)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-ol | 1.76 mmol, 0.76 g | C(C)(C)(C)OC(=O)N[C@@H]([C@H](O)C1CCCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C21H42N2O5Si
reactant | Dess-Martin periodinane | 2.29 mmol, 1.05 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
solvent | ether | 20 mL | CCOCC | C4H10O
product | (R)-2-(t-butoxycarbonylamino)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-one | 0.74 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)C1CCCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C21H40N2O5Si
